US08476297B2
Step 2: N-(2-Phenylpropyl)-4-(trifluoromethyl)benzamide
A 250-mL round-bottomed flask was charged with 2-phenylpropan-1-amine hydrochloride (7.75 g, 45.1 mmol), DCM (75 mL) and cooled down to 0° C. Triethylamine (13.8 mL, 99.3 mmol) was added followed by slow addition of 4-(trifluoromethyl)benzoyl chloride (7.4 mL, 49.7 mmol). After the addition was completed the mixture was stirred at RT for 1 h, diluted with EtOAc, washed with 10% HCl, sat NaHCO3, sat NaCl and dried over Na2SO4. The white residue was recrystallized from ether:hexanes and the title compound was obtained as a white solid. MS (ESI, positive ion) m/z: 308 (M+H).

reactant | 2-phenylpropan-1-amine hydrochloride | 45.1 mmol, 7.75 g | Cl.C1(=CC=CC=C1)C(CN)C
reactant | DCM | 75 mL | C(Cl)Cl | CH2Cl2
reactant | Triethylamine | 99.3 mmol, 13.8 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(trifluoromethyl)benzoyl chloride | 49.7 mmol, 7.4 mL | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-Phenylpropyl)-4-(trifluoromethyl)benzamide | C1(=CC=CC=C1)C(CNC(C1=CC=C(C=C1)C(F)(F)F)=O)C | C17H16F3NO
